US09259470B2
6-(2-Fluoropyridin-4-yl)-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-4-amine (2.50 g, 9.11 mmol) was dissolved in 1M HCl (50 mL) and heated to 90° C. The mixture was agitated overnight, cooled and neutralized with 1M NaOH (50 mL) The resulting slurry was cooled to 5° C., and the solids were filtered off, washed with ice cold water and dried in vacuo to give 4-(6-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (2.46 g, 9.03 mmol, 99.1% yield) as a solid.

reactant | 6-(2-Fluoropyridin-4-yl)-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-4-amine | 9.11 mmol, 2.50 g | FC1=NC=CC(=C1)C1=CC(=NC=N1)NC1CCOCC1 | C14H15FN4O
reactant | NaOH | 1M, 50 mL | [OH-].[Na+]
solvent | HCl | 1M, 50 mL | Cl | ClH
product | 4-(6-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 9.03 mmol, 2.46 g, 99.1% yield | O1CCC(CC1)NC1=CC(=NC=N1)C1=CC(NC=C1)=O | C14H16N4O2
